US08957104B2
F. (S)-3-(Dibenzylamino)-2-methylbutan-2-ol
(S)-Methyl 2-(dibenzylamino)propanoate (15.76 g, 55.6 mmol) was dissolved in Et2O (400 mL) and then cooled to ca. 0° C. Methylmagnesium iodide (27.7 mL, 3 M) was added next. The mixture turned heterogeneous white with addition of the latter. The mixture was allowed to warm to ambient temperature. LCMS the next day (17 h) indicated conversion to the desired product. The reaction was slowly quenched with sat. aqueous NH4Cl and then diluted with water and EtOAc. The layers were separated and the aqueous portion was further extracted with EtOAc. The combined organic portions were dried over Na2SO4, filtered and concentrated to a pale yellow oil. LCMS after thorough drying showed the desired product. This material was used directly for the next step: MS (ESI) m/z 284 (M+1).

reactant | (S)-Methyl 2-(dibenzylamino)propanoate | 55.6 mmol, 15.76 g | C(C1=CC=CC=C1)N([C@H](C(=O)OC)C)CC1=CC=CC=C1 | C18H21NO2
reactant | Methylmagnesium iodide | 3 M, 27.7 mL | C[Mg]I
reactant | Et2O | 400 mL | CCOCC | C4H10O
product | (S)-3-(Dibenzylamino)-2-methylbutan-2-ol | C(C1=CC=CC=C1)N([C@H](C(C)(O)C)C)CC1=CC=CC=C1 | C19H25NO
